US07235581B2
b) (RS)-1-(4-Benzyloxy-phenyl)-3-bromo-pyrrolidin-2-one
6.1 g (14.3 mmol) (RS)—N-(4-benzyloxy-phenyl)-2,4-dibromo-butyramide and 0.1 g of Dowex 2×10 are suspended in 50 ml dichloromethane. 7 ml of a 50% aqueous sodium hydroxide solution is slowly added under vigorous stirring. The resulting reaction mixture is stirred overnight at RT, then poured into 25 ml of cold water. The organic phase is separated, dried and evaporated. The crude material is recrystallised from ethyl acetate to yield 1.72 g (35%) of a brownish solid. Mp=125–126° C.

reactant | (RS)—N-(4-benzyloxy-phenyl)-2,4-dibromo-butyramide | 14.3 mmol, 6.1 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(C(CCBr)Br)=O | C17H17Br2NO2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (RS)-1-(4-Benzyloxy-phenyl)-3-bromo-pyrrolidin-2-one | 1.72 g, 35% | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(C(CC1)Br)=O | C17H16BrNO2
